US07119205B2
1-(4-Vinyl-phenyl)-ethanone
To a stirred mixture of 4-iodoacetophenone (1.0 g, 4.1 mmol), Pd2(dba)3 (186 mg, 0.2 mmol), P(2-furyl)3 (94 mg, 0.4 mmol), and CuI (77 mg, 0.4 mmol) in 20 mL of anhydrous DMF under N2 atmosphere was added vinyltributyltin (1.43 mL, 4.9 mmol) via syringe. An exothermic reaction was observed. After stirred for over night at r.t., the reaction mixture was poured into EtOAc (20 mL), washed with sat. aq. CsF solution, and brine. The organic layer was dried over Na2SO4, evaporated. The titled compound (610 mg, 100%) was isolated after silica gel MPLC eluting with 0–15% EtOAC in hexanes.

reactant | 4-iodoacetophenone | 4.1 mmol, 1.0 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | vinyltributyltin | 4.9 mmol, 1.43 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.2 mmol, 186 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CuI | 0.4 mmol, 77 mg | [Cu]I
catalyst | P(2-furyl)3 | 0.4 mmol, 94 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
product | 1-(4-Vinyl-phenyl)-ethanone | 610 mg, 100% | C(=C)C1=CC=C(C=C1)C(C)=O | C10H10O
